US06559174B2
A solution of 0.12 g (0.406 mmol) of 5-(BOC)-1-ethyl-1,4,5,6 -tetrahydropyrrolo[3,4-c]pyrazole-4(S)-carboxylic acid, methyl ester in 2 mL of MeOH was treated with 1 mL of 1N aqueous NaOH. After sonicating the solution for 15 min, it was acidified (pH 2) with 1.2 N HCI and concentrated in vacuo. The residue was diluted with EtOAc and washed with water and brine. The solution was dried over anhydrous Na2SO4 and concentrated in vacuo leaving 0.11 g of a residual oil. This oil was dissolved in 2 mL of CH2Cl2, 0.16 g (0.395 mmol) of 4-(3′,5′-dichloro-isonicotinoyl)amino-(L)-phenylalanine, methyl ester, hydrochloride and 0.17 mL (1.21 mmol) of TEA were added. After all the salt had dissolved, 0.21 g (0.4 mmol) of benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate (PyBOP) was added. After stirring for 4 hr, the reaction was partitioned between CH2Cl2 and water. The organic layer was washed with brine, dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluted with EtOAc and 5% methanol-EtOAc to afford 5-(BOC)-1-ethyl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazole-4(S)-carbonyl)-4-(3′,5′-dichloroisonicotinoyl)amino-(L)-phenylalanine, methyl ester (99 mg).

reactant | 4-(3′,5′-dichloro-isonicotinoyl)amino-(L)-phenylalanine, methyl ester, hydrochloride | 0.395 mmol, 0.16 g | Cl.ClC1=C(C(=O)NC2=CC=C(C[C@H](N)C(=O)OC)C=C2)C(=CN=C1)Cl
reactant | benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate | 0.4 mmol, 0.21 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-(3′,5′-dichloroisonicotinoyl)amino-(L)-phenylalanine, methyl ester | 99 mg | ClC1=C(C(=O)NC2=CC=C(C[C@H](N)C(=O)OC)C=C2)C(=CN=C1)Cl | C16H15Cl2N3O3
